US04899249
N-(1-Methylpropyl) Trifluoroacetamide
In a procedure similar to Example 6, ethyl trifluoroacetate (295 g, 2.07 m) was reacted with sec-butylamine. The resulting amide distilled at 72.5° C./8 mm Hg and amounted to 285 g.

reactant | ethyl trifluoroacetate | 295 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sec-butylamine | C(C)(CC)N | C4H11N
product | N-(1-Methylpropyl) Trifluoroacetamide | CC(CC)NC(C(F)(F)F)=O | C6H10F3NO
